US08865726B2
To 3-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole (1.0 g, 2.83 mmol) in degassed DMF (10 mL) were added 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.08 g, 4.25 mmol), potassium acetate (0.972 g, 9.91 mmol) and PdCl2-dppf-dichloromethane (0.116 g, 0.142 mmol). The reaction was stirred at 80° C. for 3 hours in a sealed tube. After cooling down, water was added and the aqueous phase was extracted with DCM. The combined organic phases were dried over MgSO4 and concentrated to an oil which was purified by reverse phase chromatography (SP4, 25 M, water/CH3CN, 100:0 to 0:100, 20 column volumes) to yield 3-(4-(1,5-dimethyl-2,4-dioxa-3-borabicyclo[3.1.0]hexan-3-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole (750 mg, 68.9% yield) as a clear oil.

reactant | 3-(4-bromophenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole | 2.83 mmol, 1.0 g | BrC1=CC=C(C=C1)C1=NN(C=C1)COCC[Si](C)(C)C | C15H21BrN2OSi
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 4.25 mmol, 1.08 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 9.91 mmol, 0.972 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2 dppf dichloromethane | 0.142 mmol, 0.116 g | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2].ClCCl
product | 3-(4-(1,5-dimethyl-2,4-dioxa-3-borabicyclo[3.1.0]hexan-3-yl)phenyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazole | 750 mg, 68.9% yield | CC12OB(OC2(C1)C)C1=CC=C(C=C1)C1=NN(C=C1)COCC[Si](C)(C)C | C20H29BN2O3Si
